US08076502B2
6 mg of sodium azide was added to 18 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(2-iodoethyl) ester dissolved in a mixture of 0.2 mL of N,N-dimethylformamide and 0.02 mL of water at room temperature, and the mixture was stirred for 12 hours at 60° C. After standing to cool, the solvent was distilled under reduced pressure, and the residue was purified by reverse phase column chromatography (Wako gel 50C18, eluent: water to a 70% aqueous solution of acetonitrile), thereby yielding 7 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(2-azidoethyl) ester

reactant | sodium azide | 6 mg | [N-]=[N+]=[N-].[Na+]
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(2-iodoethyl) ester | 18 mg | ICCOC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)O)N)OCC1=CC(=C(C=C1)Cl)Cl)F | C17H17Cl2FINO5
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
solvent | water | 0.02 mL | O | H2O
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-(2-azidoethyl) ester | 7 mg | N(=[N+]=[N-])CCOC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)O)N)OCC1=CC(=C(C=C1)Cl)Cl)F | C17H17Cl2FN4O5
